US04792547
6-(3-Methyl-1-piperidinyl)-N-(1H-5-tetrazoly1)pyrazine-2-carboxamide
To a suspension of 1.13 g of 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide in 20 ml of benzene, 2.94 ml of 3-methylpiperidine was added, and the mixture was refluxed for 6 hours. The reation mixture was evaporated, ethanol was added to the residue, and then the ethanol solution was adjusted with ethanolic hydrogen chloride to pH 3. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 0.81 g of the desired compound as pale yellow columns, m.p. 236.5°-238.5 ° C.

reactant | 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | 1.13 g | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
reactant | 3-methylpiperidine | 2.94 ml | CC1CNCCC1 | C6H13N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 6-(3-Methyl-1-piperidinyl)-N-(1H-5-tetrazoly1)pyrazine-2-carboxamide | CC1CN(CCC1)C1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C12H16N8O
